US09447078B2
A mixture of 5-bromofuran-2-carboxylic acid (2.64 g, 13.8 mmol), (cyclohexylmethyl)bromide (2.62 g, 14.8 mmol), K2CO3 (2.30 g, 16.64 mmol) in anhydrous NMP was stirred under Ar at +70° C. for 8 hrs after which additional (cyclohexylmethyl)bromide (1.55 g, 8.75 mmol) was added. Stirring continued overnight then the reaction mixture was concentrated under reduced pressure. The residue was partitioned between aqueous NaHCO3 (10%) and hexanes, and then aqueous layer was extracted with hexanes. Combined organic layers were washed with brine, dried over anhydrous MgSO4 and concentrated under reduced pressure to give cyclohexylmethyl 5-bromofuran-2-carboxylate as a light yellow oil. Yield (2.22 g, 56%); 1H NMR (400 MHz, CDCl3) δ 7.10 (d, J=3.9 Hz, 1H), 6.44 (d, J=3.4 Hz, 1H), 4.10 (d, J=6.4 Hz, 2H), 1.64-1.84 (m, 6H), 1.12-1.34 (m, 3H), 0.95-1.09 (m, 2H).

reactant | 5-bromofuran-2-carboxylic acid | 13.8 mmol, 2.64 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | (cyclohexylmethyl)bromide | 14.8 mmol, 2.62 g | C1(CCCCC1)CBr | C7H13Br
reactant | K2CO3 | 16.64 mmol, 2.30 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (cyclohexylmethyl)bromide | 8.75 mmol, 1.55 g | C1(CCCCC1)CBr | C7H13Br
solvent | NMP | CN1CCCC1=O | C5H9NO
product | cyclohexylmethyl 5-bromofuran-2-carboxylate | BrC1=CC=C(O1)C(=O)OCC1CCCCC1 | C12H15BrO3
